US05223498
A mixture of 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide (3.9 g) and 33% methylamine in solution in absolute ethanol (40 ml) was heated for 28 hours at 50°-55° C. to yield 1,3-dimethyl-2-(2-morpholinophenyl)guanidine which was recrystallised from hexane (m.p. 137°-138° C.).

reactant | 2-methyl-1-(2-morpholinophenyl)-3-methyl-2-thiopseudourea hydroiodide | 3.9 g | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=NC
reactant | methylamine | CN | CH5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1,3-dimethyl-2-(2-morpholinophenyl)guanidine | CNC(=NC1=C(C=CC=C1)N1CCOCC1)NC | C13H20N4O
